US08119676B2
A mixture of (6-cyano-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-phenyl-acetic acid VIIIc (465 mg, 1.59 mmol), 1-hydroxybenzotriazole (321 mg, 2.38 mmol) and PS-carbodiimide resin (Argonaut; 1.18 mmol/g; 1.61 g, 1.90 mmol) in CH2Cl2 (15 mL) was agitated for 10 min at room temperature. Then, 1-propyl-4-(S)-pyrrolidin-3-yl-piperazine (344 mg, 1.74 mmol) was added and the reaction mixture was agitated at room temperature overnight. To this was then added MP-carbonate resin (Argonaut; 2.69 mmol/g; 1.77 g, 4.76 mmol) and the reaction mixture was agitated for another 2 hours, filtered and concentrated in vacuo. The residue was purified by flash chromatography in silica gel using from 3% to 12% MeOH in CH2Cl2 as eluent to afford 2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]-ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile (IXd-) (424 mg, 57%) as a white solid

reactant | (6-cyano-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-phenyl-acetic acid | C(#N)C=1C=CC2=C(N(C(N2)=O)C(C(=O)O)C2=CC=CC=C2)C1 | C16H11N3O3
reactant | 1-hydroxybenzotriazole | 2.38 mmol, 321 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | 1.90 mmol, 1.61 g | N=C=N | CH2N2
reactant | MP-carbonate resin | 4.76 mmol, 1.77 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]-ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile | O=C1N(C2=C(N1)C=CC(=C2)C#N)C(C(N2C[C@H](CC2)N2CCN(CC2)CCC)=O)C2=CC=CC=C2 | C27H32N6O2
